US05324725
44.5 g of 5,6-dihydro-2-methyl-8-nitro-4H-pyrrolo[3,2,1-ij]quinoline-1-acetic acid (preparation see Example 20 A) were heated under reflux for 1 hour in 450 ml of ethanol after addition of 8.63 ml of sulfuric acid. To work up the reaction mixture the ethanol was removed by evaporation, the residue was taken up in a mixture of water and dichloromethane, and the organic phase was separated, washed with water until neutral, dried and evaporated. Some diethyl ether was added to the oily crude product which remained as a residue, and the resulting precipitate was filtered out. 32.4 g of ethyl 5,6-dihydro-2-methyl-8-nitro-4H-pyrrolo[3,2,1-ij]quinoline-1-acetate were obtained as a greenish-ochre-colored powder.

reactant | 5,6-dihydro-2-methyl-8-nitro-4H-pyrrolo[3,2,1-ij]quinoline-1-acetic acid | 44.5 g | CC1=C(C=2C=C(C=C3CCCN1C23)[N+](=O)[O-])CC(=O)O | C14H14N2O4
reactant | sulfuric acid | 8.63 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 450 ml | C(C)O | C2H6O
product | ethyl 5,6-dihydro-2-methyl-8-nitro-4H-pyrrolo[3,2,1-ij]quinoline-1-acetate | 32.4 g | CC1=C(C=2C=C(C=C3CCCN1C23)[N+](=O)[O-])CC(=O)OCC | C16H18N2O4
